US07968724B2
Step 1. Preparation of 4-hydroxy-dibenzofuran
4-dibenzofuran boronic acid (4.02 g, 18.9 mmoles) is suspended in diethyl ether (50 mL). The suspension is cooled to 0° C. and hydrogen peroxide (30% in H2O) is added dropwise; the resulting mixture is heated to reflux for 1.5 hours to complete conversion of the starting material. The reaction mixture is then cooled to 0° C. and 1N HCl (4 mL) is added. The organic layer is washed with an aqueous solution containing 10% FeCl2, dried over Na2SO4 and evaporated to dryness to give 3.48 g of the desired compound which is employed in the next step without further purification.

reactant | 4-dibenzofuran boronic acid | 18.9 mmoles, 4.02 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | hydrogen peroxide | OO | H2O2
reactant | HCl | 1N, 4 mL | Cl | ClH
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-hydroxy-dibenzofuran | 3.48 g | OC1=CC=CC2=C1OC1=C2C=CC=C1 | C12H8O2
